US04831013
A mixture of the tert-butyl carbamate of 2-amino-3-cyanopyridine (4.6 g), 2-furoylhydrazine (2.65 g) and 1-methyl-2-pyrrolidone (46 mL) is heated at 160° over 18 hr. It is cooled and diluted with water (369 mL) to afford 2-(2-furyl)pyrido-[3,2-e][1,2,4]-triazolo[1,5-c]pyrimidin-5(6H)one in 53% yield. It is purified by tituration in hot methanol, which removes the soluble impurities, and melts above 360° C.

reactant | tert-butyl carbamate | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | 2-amino-3-cyanopyridine | 4.6 g | NC1=NC=CC=C1C#N | C6H5N3
reactant | 2-furoylhydrazine | 2.65 g | O1C(=CC=C1)C(=O)NN | C5H6N2O2
reactant | 1-methyl-2-pyrrolidone | 46 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 369 mL | O | H2O
product | 2-(2-furyl)pyrido-[3,2-e][1,2,4]-triazolo[1,5-c]pyrimidin-5(6H)one | 53% yield | O1C(=CC=C1)C1=NN2C(NC3=C(C2=N1)C=CC=N3)=O | C12H7N5O2
